US05763458
Proceeding as in Example 12, Step (a), but replacing 1-(4-amino-5-chloro-2-methoxyphenyl)-3-{1-[2-(methylsulfonyl)aminoeth yl]piperidin-4-yl}propan-1-one with 1-[4-amino-5-chloro-2-methoxyphen yl]-5-(piperidin-1-yl)pentan-1-one, and then as in Example 12, Step (b), but replacing 3,5-dimethoxybenzyl chloride with 1-bromopropane, gave 1-[4-amino-5-chloro-2-(prop-1-yloxy)phenyl]-5-(piperidin-1-yl)pentan-1-one hydrochloride, m.p. 232°-233° C.

reactant | 1-[4-amino-5-chloro-2-methoxyphen yl]-5-(piperidin-1-yl)pentan-1-one | NC1=CC(=C(C=C1Cl)C(CCCCN1CCCCC1)=O)OC | C17H25ClN2O2
reactant | 1-bromopropane | BrCCC | C3H7Br
product | 1-[4-amino-5-chloro-2-(prop-1-yloxy)phenyl]-5-(piperidin-1-yl)pentan-1-one hydrochloride | Cl.NC1=CC(=C(C=C1Cl)C(CCCCN1CCCCC1)=O)OCCC | InChI=1S/C19H29ClN2O2.ClH/c1-2-12-24-19-14-17(21)16(20)13-15(19)18(23)8-4-7-11-22-9-5-3-6-10-22;/h13-14H,2-12,21H2,1H3;1H
